US05753710
2.3 g of ethyl chloroformate dissolved in 5 ml of THF were added dropwise at -10° C. to a solution of 4.8 g of 4-isopropyl-3-methylsulfonylbenzoic acid and 2.1 g of triethylamine in 40 ml of THF. After stirring for 1 hour, the precipitate which was deposited was filtered off with suction, and the filtrate was added dropwise to a solution of 2.3 g of sodium borohydride in 25 ml of water. The reaction mixture was subsequently stirred for 5 h, acidified with hydrochloric acid and extracted with ether, and the organic phase was washed with 10 percent sodium hydroxide solution. After concentrating, 3.1 g of 4-isopropyl-3-methylsulfonylbenzyl alcohol were obtained.

reactant | ethyl chloroformate | 2.3 g | ClC(=O)OCC | C3H5ClO2
reactant | 4-isopropyl-3-methylsulfonylbenzoic acid | 4.8 g | C(C)(C)C1=C(C=C(C(=O)O)C=C1)S(=O)(=O)C | C11H14O4S
reactant | triethylamine | 2.1 g | C(C)N(CC)CC | C6H15N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 4-isopropyl-3-methylsulfonylbenzyl alcohol | 3.1 g | C(C)(C)C1=C(C=C(CO)C=C1)S(=O)(=O)C | C11H16O3S
